US04956359
trans-N,2-Dimethyl-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide
A stirred solution of 6 g (0.015 mole) of crude trans-2-methyl-3-[3-(trifluoromethyl)phenoxy]azetidine in 50 ml of tetrahydrofuran was treated with 0.94 g (0.0165 mole) of methyl isocyanate added dropwise and stirred for 16 hr under a blanket of nitrogen. Dilution of the reaction mixture with water produced an oil which solidified. After decanting the aqueous tetrahydrofuran phase, the solid residue was recrystallized from ethanol-water to yield 3.95 g (91.4%) of fine white crystals, m.p. 104.5°-106° C.

reactant | trans-2-methyl-3-[3-(trifluoromethyl)phenoxy]azetidine | 0.015 mole, 6 g | C[C@@H]1NC[C@H]1OC1=CC(=CC=C1)C(F)(F)F | C11H12F3NO
reactant | methyl isocyanate | 0.0165 mole, 0.94 g | CN=C=O | C2H3NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | trans-N,2-Dimethyl-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide | 3.95 g, 91.4% | CNC(=O)N1[C@H]([C@@H](C1)OC1=CC(=CC=C1)C(F)(F)F)C | C13H15F3N2O2
